US08877968B2
In a Parr bomb under a hydrogen pressure of 6 bar, 100 mg of rhodium on alumina and 0.2 mL of acetic acid are added to a solution of 100 mg (0.5 mmol) of 4-butyryl-4-phenylpiperidine hydrochloride in 10 mL of dioxane. The reaction medium is heated at 80° C. for 12 hours. The reaction is stopped and then filtered through Celite and washed with dichloromethane. The solvents are evaporated off and the residue is taken up in water, basified with 1N sodium hydroxide solution and extracted with ethyl acetate. The organic phases are dried over sodium sulfate. The solvents are evaporated off and the residue is chromatographed on silica gel (eluent: 9/1 dichloromethane/methanol). 51.2 mg of 1-(4-cyclohexylpiperidin-4-yl)-butan-1-one in the form of a white powder are obtained in a yield of 61%.

reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
reactant | 4-butyryl-4-phenylpiperidine hydrochloride | 0.5 mmol, 100 mg | Cl.C(CCC)(=O)C1(CCNCC1)C1=CC=CC=C1
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | rhodium on alumina | 100 mg | [Rh] | Rh
product | 1-(4-cyclohexylpiperidin-4-yl)-butan-1-one | 51.2 mg, yield of 61% | C1(CCCCC1)C1(CCNCC1)C(CCC)=O | C15H27NO
